US05153203
7-(1-t-Butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (Compound No. 41)
A mixture of 1.28 g of ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate, 3.5 ml of 1N aq. sodium hydroxide solution and 30 ml of tetrahydrofuran was heated under reflux for 1.5 hours. The mixture was concentrated under reduced pressure. To the residue was added 10% aq. citric acid to acidify the same, followed by extraction with chloroform. The chloroform layer was washed with saturated saline, dried over anhydrous sodium sulfate, and then concentrated to dryness. The residue was recrystallized from chloroform-diisopropyl ether, whereby 1.11 g of the title compound was obtained as colorless powder.

reactant | ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.28 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F | C24H28F2N2O6
reactant | sodium hydroxide | 1N, 3.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 7-(1-t-Butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.11 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C22H24F2N2O6
